US06890947B2
Rac-2-Ethoxy-3-(3-methyl-1H-indol-5-yl)-propionic Acid Ethyl Ester
In analogy to the procedures described in preparation 1a) and 1b), 3-methyl-1H-indole-5-carbaldehyde [Helv. Chim. Acta (1968), 51(7), 1616-28] was reacted with (1,2-diethoxy-2-oxoethyl)triphenyl phosphonium chloride in dichloromethane in the presence of tetramethyl guanidine to give.(Z)-2-ethoxy-3-(3-methyl-1H-indol-5-yl)-acrylic acid ethyl ester, which was subsequently hydrogenated to yield the title compound as colorless oil.

reactant | 3-methyl-1H-indole-5-carbaldehyde | CC1=CNC2=CC=C(C=C12)C=O | C10H9NO
reactant | (1,2-diethoxy-2-oxoethyl)triphenyl phosphonium chloride | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetramethyl guanidine | CN(C(N(C)C)=N)C | C5H13N3
reactant | (Z)-2-ethoxy-3-(3-methyl-1H-indol-5-yl)-acrylic acid ethyl ester | C(C)OC(/C(=C/C=1C=C2C(=CNC2=CC1)C)/OCC)=O | C16H19NO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Rac-2-Ethoxy-3-(3-methyl-1H-indol-5-yl)-propionic Acid Ethyl Ester | C(C)OC(C(CC=1C=C2C(=CNC2=CC1)C)OCC)=O | C16H21NO3
